US07968552B2
3′-({4-[(3,5-Dioxo-1,2,4-oxadiazolidin-2-yl)methyl]phenoxy}methyl)-2-methylbiphenyl-4-carboxylic acid (10.8 mg) was dissolved in a THF-methanol [1 ml, 4:1 (v/v)] mixed solution, and the solution was added to 4-(methoxymethyl)piperidine hydrochloride (7.5 mg). DMT-MM (12 mg) and triethylamine (20 μl) were added, followed by overnight stirring at room temperature. Thereafter, chloroform was added to the reaction liquid, and the organic layer was washed with 1 M hydrochloric acid. The organic layer was concentrated, and the residue was purified by a fractional HPLC (Waters, product name: Waters SunFire™ Prep C18OBD™ (19×100 mm, 5 μm)) to obtain 2-{4-[(4′-{[4-(methoxymethyl)piperidin-1-yl]carbonyl}-2′-methylbiphenyl-3-yl)methoxy]benzyl}-1,2,4-oxadiazolidine-3,5-dione (9.0 mg).

reactant | 3′-({4-[(3,5-Dioxo-1,2,4-oxadiazolidin-2-yl)methyl]phenoxy}methyl)-2-methylbiphenyl-4-carboxylic acid | 10.8 mg | O=C1N(OC(N1)=O)CC1=CC=C(OCC=2C=C(C=CC2)C2=C(C=C(C=C2)C(=O)O)C)C=C1 | C24H20N2O6
reactant | 4-(methoxymethyl)piperidine hydrochloride | 7.5 mg | Cl.COCC1CCNCC1
reactant | DMT-MM | 12 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
reactant | triethylamine | 20 μl | C(C)N(CC)CC | C6H15N
solvent | THF methanol | 1 ml | C1CCOC1.CO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-{4-[(4′-{[4-(methoxymethyl)piperidin-1-yl]carbonyl}-2′-methylbiphenyl-3-yl)methoxy]benzyl}-1,2,4-oxadiazolidine-3,5-dione | 9.0 mg | COCC1CCN(CC1)C(=O)C1=CC(=C(C=C1)C1=CC(=CC=C1)COC1=CC=C(CN2OC(NC2=O)=O)C=C1)C | C31H33N3O6
